US04526704
The crude 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxylic acid chloride obtained was dissolved in 40 ml of benzene and then added dropwise to a solution of 0.90 g of trans-4-(p-propylphenyl)cyclohexanol in 20 ml of pyridine. The mixture was stirred at a bath temperature of 65° C. overnight, then poured into ice-water and extracted with diethyl ether. The extract was washed four times with 25 ml of 3N hydrochloric acid each time, then washed with 25 ml of 2N sodium carbonate solution and several times with water, dried over sodium sulphate and concentrated. The crude 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxylic acid trans-4-(p-propylphenyl)cyclohexyl ester obtained was recrystallized once from ethanol containing a small amount of ethyl acetate and once from ethyl acetate. Yield 1.1 g; m.p. (C-S) 131.2° C.; phase transition S-N 143.3° C.; cl.p. (N-I) 337.5° C.

reactant | 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxylic acid chloride | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C24H29ClO
reactant | trans-4-(p-propylphenyl)cyclohexanol | 0.90 g | C(CC)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C15H22O
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxylic acid trans-4-(p-propylphenyl)cyclohexyl ester | C(CC)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C39H50O2
